US09079880B2
To a solution of 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride (11.0 g, 51.25 mmol) in EtOAc (150 mL) at 0° C. in an ice bath add a solution of K2CO3 (15.65 g, 113.25 mmol) in water (150 mL) followed by benzyl chloroformate (8.37 mL, 56.37 mmol) and vigorously stir the reaction at room temperature for 24 h. Separate the layers and extract the aqeuous with more EtOAc (150 mL). Wash the organics with sat. NaHCO3 (200 mL), sat. NH4Cl (200 mL) and water (200 mL), then dry (Na2SO4). Concentrate in vacuo to give 14.70 g of 7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester as an oil which partially crystallizes.

reactant | 7-nitro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 51.25 mmol, 11.0 g | Cl.[N+](=O)([O-])C1=CC=C2CCNCC2=C1
reactant | K2CO3 | 113.25 mmol, 15.65 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl chloroformate | 56.37 mmol, 8.37 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | water | 150 mL | O | H2O
product | 7-nitro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 14.70 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC(=CC=C2CC1)[N+](=O)[O-] | C17H16N2O4
